US03979430
1.1 Gm. of 2-(5H-dibenzo[a,d]cyclohepten-5-on-2-yl)propionic acid methyl ester is stirred in 10 ml. of benzene containing 0.9 gm. of phosphorus pentachloride for one hour. The solution is then added to a stirred, ice cooled mixture of 2.4 ml. of ethylene glycol, 2.5 ml. of triethylamine, and 13 ml. of acetonitrile. The mixture is allowed to attain room temperature, and then water and ether are added. The ethereal layer is washed several times with water, then dried and evaporated to give a quantitative yield of 2-(5,5-ethylenedioxy-5H-dibenzo [a,d]cyclohepten-2-yl)propionic acid methyl ester. Use of 2-(5H-dibenzo[a,d]cyclohepten-5-on-2-yl)acetic acid methyl ester gives a similar yield of 2-(5,5-ethylenedioxy-5H-dibenzo[a,d]cyclohepten-2-yl)acetic acid methyl ester.

reactant | 2-(5H-dibenzo[a,d]cyclohepten-5-on-2-yl)propionic acid methyl ester | COC(C(C)C1=CC2=C(C(C3=C(C=C2)C=CC=C3)=O)C=C1)=O | C19H16O3
reactant | benzene | 0.9 gm | C1=CC=CC=C1 | C6H6
reactant | phosphorus pentachloride | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
reactant | ethylene glycol | C(CO)O | C2H6O2
solvent | ether | CCOCC | C4H10O
solvent | water | O | H2O
solvent | acetonitrile | C(C)#N | C2H3N
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | 2-(5,5-ethylenedioxy-5H-dibenzo [a,d]cyclohepten-2-yl)propionic acid methyl ester | quantitative yield | COC(C(C)C1=CC2=C(C3(C4=C(C=C2)C=CC=C4)OCCO3)C=C1)=O | C21H20O4
